US09127003B2
(R)-(3-Aminopiperidin-1-yl)(1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone hydrochloride
HCl in Et2O (1 M) (0.15 mL, 0.15 mmol) was added dropwise to a solution of (R)-(3-aminopiperidin-1-yl)(1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone (60 mg, 0.13 mmol) in methanol (1 mL) and diethyl ether (1 mL). After stirring for 2.5 h at rt, the reaction mixture was dried under a stream of nitrogen to give the required product (R)-(3-aminopiperidin-1-yl)(1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone hydrochloride (64 mg, 0.13 mmol, 99% yield).

reactant | HCl | Cl | ClH
reactant | (R)-(3-aminopiperidin-1-yl)(1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone | 0.13 mmol, 60 mg | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC(F)(F)F)C)C=C1 | C23H23F3N6O
solvent | methanol | 1 mL | CO | CH4O
solvent | diethyl ether | 1 mL | C(C)OCC | C4H10O
solvent | Et2O | 0.15 mmol, 1 M, 0.15 mL | CCOCC | C4H10O
product | (R)-(3-aminopiperidin-1-yl)(1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone hydrochloride | 0.13 mmol, 64 mg, 99% yield | Cl.N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC(F)(F)F)C)C=C1 | InChI=1S/C23H23F3N6O.ClH/c1-30-18-7-6-15(22(33)31-9-3-5-16(27)12-31)10-17(18)29-21(30)19-11-14-4-2-8-28-20(14)32(19)13-23(24,25)26;/h2,4,6-8,10-11,16H,3,5,9,12-13,27H2,1H3;1H/t16-;/m1./s1
